US09238644B2
(c) tert-Butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)azetidine-1-carboxylate (K4)
Zinc chloride (1.0 M in Et2O) (4.83 mL, 4.83 mmol) was added to a solution of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (0.769 g, 3.54 mmol) in 1:1 dichloroethane/tert-butanol (64 mL) at room temperature under nitrogen. After stirring for 10 minutes, tert-butyl 3-(4-aminophenyl)azetidine-1-carboxylate (I7) (0.800 g, 3.22 mmol) was added followed by Et3N (1.08 mL, 7.73 mmol). The resulting mixture was stirred at room temperature for 20 hours then the volatiles removed in vacuo. Water was added to the solid residue and the resulting suspension sonicatated for 2 minutes. The suspension was filtered, and the filter cake dried then adsorbed onto silica gel and purified using column chromatography (CombiFlash Rf, 40 g SiO2 Cartridge, 10-40% EtOAc in cyclohexane) to give a white solid. The solid was suspended in MeOH (7 mL) and sonicated for 30 seconds. The resulting suspension was filtered and the filter cake was washed with MeOH (3 mL) then dried to give the title compound K4 as a white solid (0.777 g, 56%); 1H NMR (300 MHz, d6-DMSO) δ 10.6 (s, 1H), 8.79 (s, 1H), 7.66 (d, J=8.4 Hz, 2H), 7.33 (d, J=8.4 Hz, 2H), 4.23 (t, J=7.6 Hz, 2H), 3.80 (s, 3H), 1.40 (s, 9H). LCMS-B: rt 8.810 min; m/z 429 [M+H]+.

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 3.54 mmol, 0.769 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | dichloroethane tert-butanol | 64 mL | ClC(C)Cl.C(C)(C)(C)O
reactant | tert-butyl 3-(4-aminophenyl)azetidine-1-carboxylate | 3.22 mmol, 0.800 g | NC1=CC=C(C=C1)C1CN(C1)C(=O)OC(C)(C)C | C14H20N2O2
reactant | Et3N | 7.73 mmol, 1.08 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 7 mL | CO | CH4O
catalyst | Zinc chloride | 4.83 mmol, 1.0 M, 4.83 mL | [Cl-].[Zn+2].[Cl-]
product | tert-Butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)azetidine-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(C1)C(=O)OC(C)(C)C | C19H20ClF3N4O2
